US07320984B2
In 5 mL of dichloromethane, 117 mg (0.30 mmol) of 6β-amino-17-cyclopropylmethyl-4,5α-epoxy-3-methoxymethoxy-morphinan-14-ol was dissolved, and 0.04 mL (0.29 mmol) of triethylamine and 79 mg (0.31 mmol) of benzene-1,2-disulfonyl dichloride were added, followed by heating the mixture to reflux for 1 hour. After allowing the reaction solution to cool to room temperature, aqueous saturated sodium hydrogen carbonate solution was added to the reaction mixture, and the resulting mixture was extracted with chloroform. Organic layers were combined, washed with saturated saline, dried over anhydrous magnesium sulfate and concentrated to obtain 192 mg of 2-(17-cyclopropylmethyl-4,5α-epoxy-14-hydroxy-3-methoxymethoxy-morphinan-6β-yl)-benzo[1,3,2]dithiazol-1,1,3,3-tetroxide as a crude product.

reactant | 6β-amino-17-cyclopropylmethyl-4,5α-epoxy-3-methoxymethoxy-morphinan-14-ol | 0.30 mmol, 117 mg | N[C@H]1[C@H]2[C@]34C=5C(=C(C=CC5C[C@H]([C@@]3(CC1)O)N(CC4)CC4CC4)OCOC)O2 | C22H30N2O4
reactant | triethylamine | 0.29 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | benzene-1,2-disulfonyl dichloride | 0.31 mmol, 79 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(17-cyclopropylmethyl-4,5α-epoxy-14-hydroxy-3-methoxymethoxy-morphinan-6β-yl)-benzo[1,3,2]dithiazol-1,1,3,3-tetroxide | 192 mg | C1(CC1)CN1[C@H]2[C@@]3(CC[C@H]([C@H]4[C@@]3(C=3C(=C(C=CC3C2)OCOC)O4)CC1)N1S(C4=C(S1(=O)=O)C=CC=C4)(=O)=O)O | C28H32N2O8S2
